US04971982
130 mg of 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran were dissolved in 10 ml of dichloromethane at room temperature and 93 mg of m-chloroperbenzoic acid were added. After 2 hours thin-layer chromatography indicated that some starting material was still present, whereupon further m-chloroperbenzoic acid was added until the reaction was complete. The mixture was washed in succession with sodium bisulphite solution, sodium bicarbonate solution and water, dried over sodium sulphate and evaporated to give 105 mg of 2-(3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide in the form of an oil. NMR (300 MHz, CDCl3): 8.36-8.30 (1H, m) 7.21-7.04 (4H, m), 6.89-6.76 (3H, m), 5.36-5.25 (1H, m), 2.46 (1H, dd, 14Hz, 6.5Hz), 1.75 (1H, broad t, 14Hz), 1.44 (3H, s), 1.40 (3H, s). MS (EI): 255 (M+ , 238 (M+ -OH).

reactant | 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran | 130 mg | CC1(OC2=C(C(C1)C1=NC=CC=C1)C=CC=C2)C | C16H17NO
reactant | m-chloroperbenzoic acid | 93 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide | 105 mg | CC1(OC2=C(C(C1)C1=[N+](C=CC=C1)[O-])C=CC=C2)C | C16H17NO2
